US04804773
A solution of 291 mg of 4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one in 2 mL of absolute ethanol was treated with a few mg of 5% palladium on carbon, hydrogenated in a Parr shaker for one hour under 50 psig of hydrogen, and filtered. Concentration of the filtrate gave 4-triethylsiloxy-4-trifluoromethylcyclohexanone: 1H NMR (CDCl3)δ0.45-1.16 (m, 15H), 1.92-2.89 (m, 8H); mass spectrum (70 eV) m/z (relative intensity) 267 (19, M-C2H5), 115 (45), 105 (33), 87 (100), 81 (22), 77 (67), 73 (20), 67 (29), 59 (57), 55 (84), 47 (20).

reactant | 4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 291 mg | C(C)[Si](OC1(C=CC(C=C1)=O)C(F)(F)F)(CC)CC | C13H19F3O2Si
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-triethylsiloxy-4-trifluoromethylcyclohexanone | C(C)[Si](OC1(CCC(CC1)=O)C(F)(F)F)(CC)CC | C13H23F3O2Si
